US06784323B2
(S)-4-Methyl-3-(1-methyl-1H-indol-3-yl)-pentanal (Table 2, entry 3).
Prepared according to the general procedure from 4-methyl-2-pentenal (175 μL, 1.50 mmol), 1-methyl-1H-indole (64 μL, 0.50 mmol), TFA (7.7 μL, 0.10 mmol) and (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one (24.6 mg, 0.100 mmol) in CH2Cl2 (0.90 mL) and isopropanol (0.10 mL) at −50° C. for 32 h to provide, after silica gel chromatography (10:90 EtOAc/hexanes), the title compound as a colorless oil (85 mg, 74% yield, 93% ee). IR (film) 3052, 2958, 2870, 2834, 2716, 1723, 1609, 1546, 1482, 1469, 1423, 1373, 1328, 1246, 1160, 1138, 1015, 743 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.61 (dd, J=2.4, 2.4 Hz, 1H, CHO), 7.63 (dt, J=0.9, 8.1 Hz, 1H, ArH), 7.33-7.22 (m, 2H, ArH), 7.13 (ddd, J=1.5, 6.9, 8.1 Hz, 1H, ArH), 6.82 (s, 1H, NCH), 3.75 (s, 3H, NCH3), 3.40 (dt, J=6.6, 7.8 Hz, 1H, ArCH), 2.81 (d, J=2.4 Hz, 1H, CH2CO); 2.79 (d, J=2.4 Hz, 1H, CH2CO); 2.10 (ddd, J=6.6, 13.2, 19.8 Hz, 1H, CH(CH3)2, 0.96 (d, J=2.1, 3H, CH(CH3)2, 0.94 (d, J=2.1 Hz, 3H, CH(CH3)2; 13C NMR (75 MHz, CDCl3) δ 203.4, 137.0, 127.6, 126.7, 121.6, 119.4, 118.8, 115.6, 109.3, 46.1, 38.0, 32.9, 32.9, 20.6, 20.4; HRMS (CI) exact mass calcd for (C15H19NO) requires m/z 229.1467, found m/z 229.1465. [α]D=+15.8 (c=1.0, CHCl3). The enantiomeric ratio was determined by HPLC analysis of the alcohol, obtained by NaBH4 reduction of the aldehyde, using a Chiracel AS and AS guard column (4% ethanol/hexanes, 1 mL/min); R isomer tr=13.4 min and S isomer tr=16.7 min.

reactant | 4-methyl-2-pentenal | 1.50 mmol, 175 μL | CC(C=CC=O)C | C6H10O
reactant | 1-methyl-1H-indole | 0.50 mmol, 64 μL | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | TFA | 0.10 mmol, 7.7 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one | 0.100 mmol, 24.6 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C(C)(C)C)C)=O | C15H22N2O
solvent | CH2Cl2 | 0.90 mL | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 0.10 mL | C(C)(C)O | C3H8O
product | (S)-4-Methyl-3-(1-methyl-1H-indol-3-yl)-pentanal | 85 mg, 74% yield | CC([C@H](CC=O)C1=CN(C2=CC=CC=C12)C)C | C15H19NO
